US08669234B2
Methyl chloroformate (0.81 mL, 10.51 mmol) was added dropwise to a stirred suspension of 2-Amino-3-cyano-propionic acid (1.00 g, 8.76 mmol) and NaOH (5 N in H2O, 4.2 mL, 21.0 mmol) in THF (20 mL). After stirring at room temperature for 7 h, the reaction mixture was poured into 10% HCl and the aqueous phase was extracted 3× with diethyl ether. The combined organics were dried over MgSO4, filtered and concentrated to afford 3-Cyano-2-methoxycarbonylamino-propionic acid (295 mg, 20%).

reactant | Methyl chloroformate | 10.51 mmol, 0.81 mL | ClC(=O)OC | C2H3ClO2
reactant | 2-Amino-3-cyano-propionic acid | 8.76 mmol, 1.00 g | NC(C(=O)O)CC#N | C4H6N2O2
reactant | NaOH | 21.0 mmol, 5 N, 4.2 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Cyano-2-methoxycarbonylamino-propionic acid | 295 mg, 20% | C(#N)CC(C(=O)O)NC(=O)OC | C6H8N2O4
